US08614209B2
(2-Methyl-piperidin-1-yl)-(5-phenyl-thiophen-3-yl)-methanone (AA-14)
To a solution of 5-phenyl-thiophene-3-carboxylic acid (1 eq.) in DCM (1 mL/100 mg SM) was added EDC (1.5 eq.). This mixture was stirred at room temperature for 5 minutes and then 2-methyl piperidine (1.2 eq.) was added and the mixture stirred for 18 hours. Water (1 mL/100 mg SM) was then added and the organic layer separated, dried and evaporated to give the crude product which was purified by column chromatography (EtOAc/iso-hexane). LCMS m/z 286 [M+H]+ R.T.=3.85 min (Analytical Method 3).

reactant | 5-phenyl-thiophene-3-carboxylic acid | 1 eq. | C1(=CC=CC=C1)C1=CC(=CS1)C(=O)O | C11H8O2S
reactant | EDC | 1.5 eq.
reactant | 2-methyl piperidine | 1.2 eq. | CC1NCCCC1 | C6H13N
reactant | Water | 1 mL, 100 mg | O | H2O
solvent | DCM | 1 mL, 100 mg | C(Cl)Cl | CH2Cl2
product | (2-Methyl-piperidin-1-yl)-(5-phenyl-thiophen-3-yl)-methanone | CC1N(CCCC1)C(=O)C1=CSC(=C1)C1=CC=CC=C1 | C17H19NOS
